2190-05-13 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - [**Doctor Last Name 1109**] recs: transitioning towards CMO. Giving family, pt time to
   process. Likely callout to floor in AM. if codes tonight, will proceed
   but if time allows, will discuss matter with family first
   - Neuro recs: rescan head and neck
   - Hypotensive - received three 500 cc boluses overnight, with good
   effect
   Allergies:
   Penicillins
   Rash;
   Cefepime
   Hives;
   Aztreonam
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2190-5-12**] 10:32 PM
   Meropenem - [**2190-5-13**] 02:28 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-5-13**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100
   HR: 108 (81 - 108) bpm
   BP: 120/61(74) {82/39(52) - 142/66(83)} mmHg
   RR: 24 (18 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,491 mL
                                                                    880 mL
   PO:
             TF:
   IVF:
                                                                  1,491 mL
                                                                    880 mL
   Blood products:
   Total out:
                                                                    790 mL
                                                                    665 mL
   Urine:
                                                                    790 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    701 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   23 K/uL
   8.4 g/dL
   118 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.7 mEq/L
   30 mg/dL
   109 mEq/L
   138 mEq/L
   24.2 %
   0.1 K/uL
        [image002.jpg]
                             [**2190-5-12**]  01:27 PM
                             [**2190-5-13**]  03:12 AM
   WBC
   0.1
   0.1
   Hct
   27.2
   24.2
   Plt
   44
   23
   Cr
   0.9
   1.0
   TropT
   0.03
   Glucose
   99
   118
   Other labs: PT / PTT / INR:16.2/30.9/1.4, CK / CKMB /
   Troponin-T:14/1/0.03, Ca++:6.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   RUQ U/S:
   1. Partially imaged right pleural effusion.
   2. Benign hepatic cysts in the liver.
   Assessment and Plan
   64F h/o MDS presenting with new AML now s/p 7+3 induction, had residual
   blasts in day 14 BM, now completed HDAC reinduction day +44. Hospital
   course c/b persistent neutropenia and now sepsis physiology. Today
   developped worsening tachypnea with increased O2 requirements
   .
   #) Hypoxia: Has bil;ateral patchy infiltrates, in setting of
   neutropenia and fevers most consistent with a multifocal pneumonia.
   Oxygenation did not improve after thoracentesis on [**5-11**], and BAL on
   [**5-4**] is also negative. The gram stain from BAL and thoracentesis are
   also negative.  Other considerations include pulmonary edema, though
   oxygenation did not improve wioth diuresis. CXR s/p thoracentesis show
   cleared pleural effusuion and no pneumothorax. PE is a consideration
   considering history of malignancy, and echo on [**5-3**] showing interval
   worsening of pulmonary hypertension and tricuspid regurgitation.  ARDS
   or acute lung injury also a consideration with PaO2/FiO2 265.
   - titrate supplemental O2 to Sats > 90%
   - cont broad spectrum antibiotic coverage for likely multifocal
   pneumonia
   - EKG and CE to r/o ischemia
   .
   #Hypotension: in setting of fevers, patient meets SIRS criteria with
   likely infectious source being multifocal pneumonia.  Currently fluid
   responsive with increased BP to 117/61 after only 500cc NS.  Over
   diuresis is also a consideration but ins and outs have been inaccurate.
   -fluids for MAP > 65
   -levophed if fluids unresponsive
   -ekg, cardiac enzymes.
   .
   # Somnolence: in setting of hypotension and hypoxia and has resolved
   with improved BP and ooxygenation.
   -monitor
   -check lytes
   -low threshold for CT as she presented with a small intracranial bleed.
   .
   #) Fever: Peristent fevers most likely infectious etiology given
   profound neutropenia although drug fever also possibility. Most likely
   source continues to be multifocal pneumonia, although would also
   consider line infection. Also at risk of opportunistic infection with
   disseminated fungus. Infectious eval continues to be negative- only
   positive culture VRE in urine not from clean catch.
   - cont linezolid/ meropenem/ ambisome/ flagyl
   - f/u infectious evaluation with blood/ urine/ sputum cultures
   - trend WBC and fever curve
   - ID recs
   - consider adding bactrim or aminoglycoside if patient decompensates
   further
   .
   #)Lower extremity weakness: [**Month (only) 11**] be deconditioing vs. new central
   process, Also with new bladder and bowel incontinence.  patient
   presented with new frontal hypodensity that was subacute in nature
   attriibuted to leukostasis.  Exam is positive for right sided upper and
   lower extremity weakness which has been unchanged since admission.
   -Neuro consult
   -repeat imaging per neuro.
   -repeat UA
   .
   #) AML: s/p induction 7+3 [**3-5**] and reinduction HiDac [**3-25**] chemotherapy,
   Day +44. still with profound neutropenia with no evidence of bone
   marrow recovery. Neupogen has been discontinued as not effective and
   could be contributing to febrile episodes
   - trend CBC w/ diff
   - supportive transfusions for Hct < 25, plt < 10
   - if infectious issues resolve, pt would be candidate for transplant
   .
   #) Tachyarrhthymia: Repeat episodes of SVT likely AVNRT driven by high
   metabolic demands. HR better controlled with B-blockade
   - monitor on tele
   - continue B-blockade and CCB to maintain HR in 80s- 100s as BP will
   tolerate
   - treat infection as above
   .
   #) Elevated alkaline phosphatase: elevated transaminitis developped
   after patient briefly placed on daptomycin and voriconazole. Although
   rest of LFTs have trended down, ALP remains elevated. CT scan w/o
   contrast showed no abnormalities
   - monitor serial abdominal exams
   - consider abdominal US
   .
   FEN: neutropenic diet
   Prophylaxis: pneumoboots
   Access: PICC
   Code:  Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2190-5-12**] 04:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-05-13 11:01:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued to exhibit episodic hypotension overnight, resopnded to iv
   fluid boluses.
   No new complaints this AM.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   Rash;
   Cefepime
   Hives;
   Aztreonam
   Rash;
   Last dose of Antibiotics:
   Ambisome - [**2190-5-12**] 10:32 PM
   Meropenem - [**2190-5-13**] 02:28 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-5-13**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.8
   HR: 100 (81 - 110) bpm
   BP: 74/58(62) {74/39(52) - 142/66(83)} mmHg
   RR: 21 (18 - 34) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,491 mL
                                                                  1,702 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  1,491 mL
                                                                  1,462 mL
   Blood products:
   Total out:
                                                                    790 mL
                                                                    785 mL
   Urine:
                                                                    790 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    701 mL
                                                                    917 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   23 K/uL
   118 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.7 mEq/L
   30 mg/dL
   109 mEq/L
   138 mEq/L
   24.2 %
   0.1 K/uL
        [image002.jpg]
                             [**2190-5-12**]  01:27 PM
                             [**2190-5-13**]  03:12 AM
   WBC
   0.1
   0.1
   Hct
   27.2
   24.2
   Plt
   44
   23
   Cr
   0.9
   1.0
   TropT
   0.03
   Glucose
   99
   118
   Other labs: PT / PTT / INR:16.2/30.9/1.4, CK / CKMB /
   Troponin-T:14/1/0.03, Ca++:6.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   64 yof h/o MDS presenting with new AML requiring chemotherapy, with
   persistent neutropenia, now with worsening respiratory distress,
   hypoxemia and hypotension.
   HYPOXEMIA -- Bilateral patchy infiltrates in neutropenic patent.
   Unclear etiology.  Monitor SaO2, RR, maintain saO2 >90%. Continue
   empirical broad spectrum antibiotic coverage for likely multifocal
   pneumonia.
   HYPOTENSION
 attributed to sepsis and component of hypovolemia.
   Currently fluid responsive. Provide fluids to maintain MAP > 60 mmHg.
   Consider levophed if fluids unresponsive.  Check ECG, cardiac enzymes.
   Consider relative adrenal insufficiency.
   FEVERs -- Peristent fevers most likely reflect infectious etiology.
   Continue linezolid/ meropenem/ ambisome/ flagyl.  F/U infectious
   evaluation with blood/ urine/ sputum cultures.  Trend WBC and fever
   curve.  Check ID recommendations.  Consider adding bactrim or
   aminoglycoside if clinically decompensates.
   LOWER EXTREMITY WEAKNESS
 concern for possible CNS pathology or spinal
   cord lesion.  Would proceed with spine imaging as per Neurology
   consultation.
   AML -- s/p induction.  Neupogen discontinued.  Monitor CBC w/
   differential.  Supportive transfusions for Hct < 25, plt < 10.  Need to
   determine if pt is candidate for transplant .
   TACHYCARDIA -- Repeat episodes of SVT likely AVNRT driven by high
   metabolic demands.   Monitor HR.
   Elevated ALK PHOS
 check RUQ U/S.  Monitor abd exam.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2190-5-12**] 04:52 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill